US07893264B2
Ethyl acetimidate hydrochloride (1.23 g, 9.95 mmol) and 2,2,2-trifluoroethylamine hydrochloride (1.35 g, 9.95 mmol) were dissolved in CH2Cl2 (32 mL)/H2O (3.2 mL). K2CO3 (0.69 g, 4.98 mmol) was added and stirred for 30 minutes. The two layers were separated. The aqueous layer was extracted with CH2Cl2 (2×10 mL). The combined organic layer was dried with Na2SO4 and concentrated to give 1.48 g of N-(2,2,2-Trifluoro-ethyl)-acetimidic acid ethyl ester as a light yellow liquid in 87% yield.

reactant | Ethyl acetimidate hydrochloride | 9.95 mmol, 1.23 g | Cl.C(C)(OCC)=N
reactant | 2,2,2-trifluoroethylamine hydrochloride | 9.95 mmol, 1.35 g | Cl.FC(CN)(F)F
reactant | K2CO3 | 4.98 mmol, 0.69 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 32 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 3.2 mL | O | H2O
product | N-(2,2,2-Trifluoro-ethyl)-acetimidic acid ethyl ester | 1.48 g, 87% yield | C(C)OC(C)=NCC(F)(F)F | C6H10F3NO
